US09422235B2
N-cyclopropylmethyl-4-(4-methoxy-phenylamino)-2-trifluoromethyl-benzensulfonamide
A mixture of 4-bromo-N-cyclopropylmethyl-2-trifluoromethylbenzenesulfonamide (295 mg, 0.82 mmol), 4-methoxyaniline (142 mg, 0.92 mmol), Pd(OAc)2 (26 mg, 0.11 mmol), BINAP (70 mg, 0.11 mmol) and cesium carbonate (395 mg, 1.21 mmol) in 15 ml toluene was relaxed for 6 hours. Toluene was evaporated in vacuum and crude oil was purified by Combiflash (PE-THF). Yield 45%

reactant | 4-bromo-N-cyclopropylmethyl-2-trifluoromethylbenzenesulfonamide | 0.82 mmol, 295 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)C(F)(F)F | C11H11BrF3NO2S
reactant | 4-methoxyaniline | 0.92 mmol, 142 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | BINAP | 0.11 mmol, 70 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.21 mmol, 395 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.11 mmol, 26 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-cyclopropylmethyl-4-(4-methoxy-phenylamino)-2-trifluoromethyl-benzensulfonamide | Yield 45% | C1(CC1)CNS(=O)(=O)C1=C(C=C(C=C1)NC1=CC=C(C=C1)OC)C(F)(F)F | C18H19F3N2O3S
